US07465815B2
N-((3S)-3-(4-Isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide
Using (S)-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 326, the title compound was synthesized in the same manner as in Example 1. Yield: 84%. Melting point: 147-148° C. (hexane-ethyl acetate). [α]D20=−93° (c=0.497, chloroform).

reactant | (S)-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-amine | C(C)(C)C1=CC=C(C=C1)[C@@H]1COC2=C1C(=C(C(=C2)C)N)C | C19H23NO
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-((3S)-3-(4-Isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide | Yield: 84% | C(C)(C)C1=CC=C(C=C1)[C@@H]1COC2=C1C(=C(C(=C2)C)NC(CC(C)(C)C)=O)C | C25H33NO2
